US05674884
Preparation of (-)(4R)-6-(3-isoxazolyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole
A mixture of (-)(2aR,4S)-6-(3-isoxazolyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole (400 mg, 1.2 mmol) and 1 g of MnO2 in 100 ml of CH2 Cl2 was sonicated at 50-55 KHz for four hours. The reaction mixture was warmed to reflux during the time period. After four hours, the reaction mixture was filtered through a celite pad and the filtrate was concentrated to dryness in vacuo. The resulting residue was chromatographed (flash column, silica gel, EtOAc) to provide 55 mg of title product as an oil. MS m/e 323(FD) NMR (300 MHz, CDCl3) δ 0.90 (t, 6H); 1.2-1.6 (m, 5H); 2.2-3.6 (m, 8H); 6.6 (s, 1H); 6.9 (s, 1H); 7.2 (d, 1H); 7.4 (d, 1H); 8.0 (bs, 1H); 8.4 (s, 1H).

reactant | (-)(2aR,4S)-6-(3-isoxazolyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 1.2 mmol, 400 mg | O1N=C(C=C1)C1=C2C=3[C@H](CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C20H27N3O
reactant | Cl2 | ClCl | Cl2
catalyst | MnO2 | 1 g | O=[Mn]=O
product | (-)(4R)-6-(3-isoxazolyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole | 55 mg | O1N=C(C=C1)C1=C2C=3C(=CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C20H25N3O
